US07888364B2
600 mg of methyl 2-amino-4-(methylsulfonyl)benzoate was added to a solution of 4 mL of H2O and 1 mL of concentrated sulfuric acid. The solution was cooled to 0° C. and a solution of 206 mg of sodium nitrite in 1 mL of H2O was added slowly. The reaction mixture was stirred for 2 h and then a solution of 782 mg of potassium iodide in 2 mL of H2O was added dropwise at 0° C. The reaction was allowed to warm to room temperature and stirred for 5 h. The mixture was extracted with ethyl acetate. The combined organic extracts were washed with saturated Na2S2O3, dried (MgSO4) and evaporated. Purified by silica gel chromatography (5-50% ethyl acetate/hexane) to afford methyl 2-iodo-4-(methylsulfonyl)benzoate. 160 mg of methyl 2-iodo-4-(methylsulfonyl)benzoate was hydrolyzed via Procedure M to give 2-iodo-4-(methylsulfonyl)benzoic acid. 60 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 2-iodo-4-(methylsulfonyl)benzoic acid via Procedure G. The product was purified on reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-iodo-4-(methylsulfonyl)benzamide. MS (Q1) 513.0 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 60 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 2-iodo-4-(methylsulfonyl)benzoic acid | IC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C8H7IO4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-2-iodo-4-(methylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=C(C=C(C=C1)S(=O)(=O)C)I)=O)C1=NC=CC=C1 | C19H14ClIN2O3S
